US04128429
2-Dimethylamino-2-Methyl-1-Propyl Tributylstannyl Ether is prepared from 59.6 gm (0.1 mole) bis(tributyltin) oxide and 23.4 gm (0.2 mole) 2-dimethylamino-2-methyl-1-propanol in 200 ml benzene. This is stirred and heated to reflux in a system that contains a Dean-Starke tube. After 30 minutes water began to collect in the Dean-Starke tube and after 46 hours only 1.6 ml of water (theory 1.8 ml) had collected. Solvent is stripped off on a rotating evaporator to provide 78.3 gm of straw colored liquid. This is fractionated at reduced pressure to collect the desired product, 52.7 gm of water-white liquid (Percent yield - 65), at 132°-137° C. at 0.5 mm. Infrared spectral analysis shows this to be the desired ether.

reactant | bis(tributyltin) oxide | 0.1 mole, 59.6 gm | CCCC[Sn](CCCC)(CCCC)O[Sn](CCCC)(CCCC)CCCC
reactant | 2-dimethylamino-2-methyl-1-propanol | 0.2 mole, 23.4 gm | CN(C(CO)(C)C)C | C6H15NO
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 2-Dimethylamino-2-Methyl-1-Propyl Tributylstannyl Ether | C(CCC)[Sn](CCCC)(CCCC)OCC(C)(C)N(C)C | InChI=1S/C6H14NO.3C4H9.Sn/c1-6(2,5-8)7(3)4;3*1-3-4-2;/h5H2,1-4H3;3*1,3-4H2,2H3;/q-1;;;;+1
